US07049313B2
1-Bromo-9H-thioxanthen-4-ol
To a cooled 0° C.) suspension of 1-bromo-4-hydroxy-thioxanthen-9-one (24.23 g, 78.88 mmol) in anhydrous tetrahydrofuran (40 ml) under nitrogen atmosphere, was added dropwise borane-THF complex (237 ml, 1M in THF). The cloudy mixture was allowed to warm to room temperature and was left stirring overnight. The suspension dissolved gradually as the reaction progressed giving a yellow solution. The reaction mixture was cooled (0° C.) and the excess borane was quenched with acetone. The yellow solution was evaporated in vacuo. The resulting oil was purified by flash chromatography (4:1, hexane/ethyl acetate) to give the title compound (11.50 g, 50%). m/z (LC-MS, ESP), RT=4.84 min, (M−−1)=291–293.

reactant | 1-bromo-4-hydroxy-thioxanthen-9-one | 78.88 mmol, 24.23 g | BrC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7BrO2S
reactant | borane THF | 1M, 237 ml | B.C1CCOC1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Bromo-9H-thioxanthen-4-ol | 11.50 g, 50% | BrC1=CC=C(C=2SC3=CC=CC=C3CC12)O | C13H9BrOS
